.subckt userLib_pfm fn g1 g2 sr1 sr2 fmax=200k fmin=60k dtDutyMR=0.05 dtDutySR=0.1
A1 fn 0 0 0 0 0 N001 0 MODULATOR mark={fmax} space={fmin}
A3 N001 0 0 0 0 0 g1 0 SCHMITT vt={sin(2*dtDutyMR*0.5*pi)} vh=0
A2 N001 0 0 0 0 0 N003 0 SCHMITT vt={-sin(2*dtDutyMR*0.5*pi)} vh=0
A4 N003 0 0 0 0 g2 N002 0 BUF
A5 N001 0 0 0 0 0 sr1 0 SCHMITT vt={sin(2*dtDutySR*0.5*pi)} vh=0
A6 N001 0 0 0 0 0 N005 0 SCHMITT vt={-sin(2*dtDutySR*0.5*pi)} vh=0
A7 N005 0 0 0 0 sr2 N004 0 BUF
.ends userLib_pfm
