.subckt userLib_PFM fn g1 g2 PARAMS: fmax=200k fmin=60k dt=200n
A1 fn 0 0 0 0 0 N003 0 MODULATOR mark={fmax} space={fmin}
A2 N003 0 0 0 0 N004 N001 0 SCHMITT vt=0 vh=0
A3 N002 N001 0 0 0 0 g1 0 AND
A4 N004 N005 0 0 0 0 g2 0 AND
A5 N001 0 0 0 0 0 N002 0 BUF Td={dt}
A6 N004 0 0 0 0 0 N005 0 BUF Td={dt}
.ends userLib_PFM
